US07612114B2
(2-Hydroxy-4-methoxyphenyl) (4-methoxyphenyl)methanone
Synthesized from resorcinol and 4-methoxybenzoyl chloride according to an analogous synthetic method to Preparation Example 66, (2,4-dihydroxyphenyl)(4-methoxyphenyl)methanone (9.7 g) and methyl iodide (13.1 g) were used according to an analogous synthetic method to Example 383 to provide the title compound (7.0 g).

reactant | resorcinol | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | 4-methoxybenzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | (2,4-dihydroxyphenyl)(4-methoxyphenyl)methanone | 9.7 g | OC1=C(C=CC(=C1)O)C(=O)C1=CC=C(C=C1)OC | C14H12O4
reactant | methyl iodide | 13.1 g | CI | CH3I
product | (2-Hydroxy-4-methoxyphenyl) (4-methoxyphenyl)methanone | 7.0 g | OC1=C(C=CC(=C1)OC)C(=O)C1=CC=C(C=C1)OC | C15H14O4
